US08536197B2
(105a) N-(3-Methoxy-4-nitrobenzoyl)threonine methyl ester
The same operation as in Example (102a) was performed using threonine methyl ester hydrochloride (2.88 g, 17 mmol), 3-methoxy-4-nitrobenzoic acid (3 g, 15.2 mmol), WSC hydrochloride (3.83 g, 20 mmol), DMAP (0.18 g, 1.5 mmol), N,N-diisopropylethylamine (2.58 g, 20 mmol) and dichloromethane (40 mL). The resulting residue was purified by silica gel column chromatography (elution solvent: ethyl acetate/hexane=1/2, 1/1, 2/1, 1/0) to obtain 4.49 g of the title compound as a light yellow amorphous solid (95%).

reactant | threonine methyl ester hydrochloride | 17 mmol, 2.88 g | Cl.COC([C@@H](N)[C@H](O)C)=O
reactant | 3-methoxy-4-nitrobenzoic acid | 15.2 mmol, 3 g | COC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H7NO5
reactant | WSC hydrochloride | 20 mmol, 3.83 g | CCN=C=NCCCN(C)C.Cl
reactant | N,N-diisopropylethylamine | 20 mmol, 2.58 g | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | DMAP | 1.5 mmol, 0.18 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | N-(3-Methoxy-4-nitrobenzoyl)threonine methyl ester | 4.49 g, 95% | COC([C@@H](NC(C1=CC(=C(C=C1)[N+](=O)[O-])OC)=O)[C@H](O)C)=O | C13H16N2O7
